US06620940B1
3-Chloro-4-(furan-2-yl)-1,2,5-thiadiazole
0.85 g (0.00238 mol) of 2-(tributylstannyl)furan and 0.12 g (0.0001 mol) of tetrakis(triphenylphosphine)palladium(0) were added to a solution of 0.33 g (0.00213 mol) of 3,4-dichloro-1,2,5-thiadiazole in 4 mL of toluene under nitrogen and heated at reflux. After 3 and 6 h respectively, 0.04 g (2 times 3.5×10−5 mol) of tetrakis(triphenylphosphine)palladium(0) were added. After 24 h of reflux (quantitative HPLC: 60% of product formed, all the stannane was consumed), the reaction medium was diluted with 5 mL of ethyl acetate and vigorously stirred with 10 mL of a 1M aqueous solution of KF for 2 h. After filtration through celite, the aqueous phase was re-extracted with ethyl acetate, the combined organic phases were dried over magnesium sulfate and concentrated.

reactant | 2-(tributylstannyl)furan | 0.00238 mol, 0.85 g | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | 3,4-dichloro-1,2,5-thiadiazole | 0.00213 mol, 0.33 g | ClC1=NSN=C1Cl | C2Cl2N2S
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0001 mol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.5×10−5 mol, 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-4-(furan-2-yl)-1,2,5-thiadiazole | 60% | ClC1=NSN=C1C=1OC=CC1 | C6H3ClN2OS
